US07994164B2
(R)-[4-((E)-3,8-Difluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-2-nitro-phenyl]-(1-methyl-2-morpholin-4-yl-ethyl)-amine
Degas three times a mixture of (R)-(4-bromo-2-nitro-phenyl)-(1-methyl-2-morpholin-4-yl-ethyl)-amine (0.037 mol, 12.8 g), (E)-3,8-difluoro-11-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-ylmethylene)-6,11-dihydro-dibenzo[b,e]oxepine (0.037 mol, 13.7 g), triphenylphosphine (0.007 mol, 2.02 g) and potassium acetate (0.074 mol, 7.29 g) in dioxane/water (3:1) (450 mL) with nitrogen. Add palladium (II) acetate (0.001 mol) to the reaction mixture and degas again three times with nitrogen. Heat the resulting reaction mixture at 85° C. for 16 h. Cool the reaction mixture to room temperature, dilute with water, extract with ethyl acetate, combine organic layer, wash with water and brine. Dry the organic phase over anhydrous sodium sulfate, filter, and concentrate. Purify on a silica gel column using 7% ethyl acetate in hexanes as eluent to obtain the title compound (9.1 g, 48%) as an orange solid. 1H NMR (400 MHz, CDCl3), δ 1.26 (d, 3H), 2.44-2.57 (m, 6H), 3.66-3.68 (m, 4H), 3.71-3.78 (m, 1H), 4.89 (br s, 1H), 5.63 (br s, 1H), 6.52 (dd, 1H), 6.61 (d, 1H), 6.67 (dt, 1H), 6.76 (s, 1H), 6.89 (d, 1H), 6.95 (dt, 1H), 7.06-7.10 (m, 1H), 7.19 (dd, 1H), 7.29-7.41 (m, 1H), 7.95 (d, 1H), 8.35 (d, 1H, —NH).

reactant | (R)-(4-bromo-2-nitro-phenyl)-(1-methyl-2-morpholin-4-yl-ethyl)-amine | 0.037 mol, 12.8 g | BrC1=CC(=C(C=C1)N[C@@H](CN1CCOCC1)C)[N+](=O)[O-] | C13H18BrN3O3
reactant | (E)-3,8-difluoro-11-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-ylmethylene)-6,11-dihydro-dibenzo[b,e]oxepine | 0.037 mol, 13.7 g | FC=1C=CC/2=C(OCC3=C(\C2=C/B2OC(C(O2)(C)C)(C)C)C=CC(=C3)F)C1 | C21H21BF2O3
reactant | triphenylphosphine | 0.007 mol, 2.02 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium acetate | 0.074 mol, 7.29 g | C(C)(=O)[O-].[K+]
solvent | dioxane water | 450 mL | O1CCOCC1.O
solvent | water | O | H2O
catalyst | palladium (II) acetate | 0.001 mol | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (R)-[4-((E)-3,8-Difluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-2-nitro-phenyl]-(1-methyl-2-morpholin-4-yl-ethyl)-amine | 9.1 g, 48% | FC=1C=CC\2=C(OCC3=C(/C2=C\C2=CC(=C(C=C2)N[C@@H](CN2CCOCC2)C)[N+](=O)[O-])C=CC(=C3)F)C1 | C28H27F2N3O4
